US08242280B2
Step 1: Synthesis of {3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-methyl-pyridin-2-yl)-methanol
415 mg (0.87 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine, 40 mg (49 μmol) of dichloro[1,1′-bis(diphenyl-phoshino)ferrocene]palladium(II) dichloromethane adduct and 240 mg (0.86 mmol) of (3-bromo-phenyl)-(3-methyl-pyridin-2-yl)-methanol were place in a microwave vial. 6 mL of acetonitrile, 2 mL of toluene and 6 mL of a saturated aqueous solution of sodium carbonate were added. The vial was sealed and irradiated in a Personal Chemistry® Optimizer to 145° C. for 30 main. The resulting mixture was distributed between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The aqueous layer was extracted twice with dichloromethane and the combined organic phases were dried over sodium sulfate and evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford a yellow oil. MS: m/z 553.0 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 0.87 mmol, 415 mg | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | (3-bromo-phenyl)-(3-methyl-pyridin-2-yl)-methanol | 0.86 mmol, 240 mg | BrC=1C=C(C=CC1)C(O)C1=NC=CC=C1C | C13H12BrNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenyl-phoshino)ferrocene]palladium(II) dichloromethane adduct | 49 μmol, 40 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | {3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-(3-methyl-pyridin-2-yl)-methanol | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(O)C2=NC=CC=C2C)COCC[Si](C)(C)C | C32H36N4O3Si
